US04032635
2,6-Dichloro-4-aminophenol (0.37 g.) was dissolved in acetone (30 ml.) to which pyridine (0.32 ml.) was added. While mixing, an acetone solution (10 ml.) of the acid chloride prepared from acetylsalicylic acid (0.38 g.) was added by drops. After the reaction was completed, the solution was evaporated under reduced pressure and the residue was dissolved in ethyl acetate and then was washed with water then with 1N-hydrochloric acid. After evaporating off the ethyl acetate under reduced pressure the resulting residue was dissolved in a mixture of methanol and 2N-sodium hydroxide (10 ml. each). The solution was agitated for several hours then acidified with 2N-hydrochloric acid to precipitate the product. By recrystallization in acetone-water, white needle-like crystals of 3',5'-dichloro-2,4'-dihydroxybenzanilide (0.62 g.) were obtained. The yield was 78% and the melting point was 217°-219° C.

reactant | 2,6-Dichloro-4-aminophenol | 0.37 g | ClC1=C(C(=CC(=C1)N)Cl)O | C6H5Cl2NO
reactant | acetylsalicylic acid | 0.38 g | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | pyridine | 0.32 ml | N1=CC=CC=C1 | C5H5N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3',5'-dichloro-2,4'-dihydroxybenzanilide | 0.62 g, yield was 78% | ClC=1C=C(NC(C2=C(C=CC=C2)O)=O)C=C(C1O)Cl | C13H9Cl2NO3
